US08017610B2
(123a) 5-Fluoro-N-methylpyridine-2-carboxamide
5-Fluoropyridine-2-carboxylic acid (495 mg, 3.51 mmol) was dissolved in methylene chloride (10 mL), and HOBt•H2O (591 mg, 3.86 mmol), WSCI•HCl (1.35 g, 7.02 mmol), triethylamine (2.44 mL, 17.5 mmol) and 40% methylamine/methanol solution (0.82 mL, 10.5 mmol) were added, followed by stirring for 15 hours. To the reaction solution, water (30 mL) was added, and extraction was carried out twice with methylene chloride (30 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=0%-50%) to afford the desired compound (490 mg, yield 91%) as a white solid.

reactant | 5-Fluoropyridine-2-carboxylic acid | 3.51 mmol, 495 mg | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | HOBt•H2O | 3.86 mmol, 591 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | WSCI•HCl | 7.02 mmol, 1.35 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 17.5 mmol, 2.44 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine methanol | 10.5 mmol, 0.82 mL | CN.CO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 5-Fluoro-N-methylpyridine-2-carboxamide | 490 mg, yield 91% | FC=1C=CC(=NC1)C(=O)NC | C7H7FN2O
